US08114877B2
6-(2,2-Diphenyl-ethylamino)-9H-purine-2-carboxylic Acid Methyl Ester
6-(2,2-Diphenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester hydrochloride (which is prepared using the method described in international patent application WO 01/94368)(18.2 g, 40.9 mmol) is placed in an oven-dried flask under an atmosphere of argon. Dry CHCl3 (250 mL) and N,O-bis(trimethylsilyl)acetamide (50 mL) are added to the reaction mixture. The reaction mixture is refluxed for 1 hour. The reaction mixture is allowed to cool and the solvent is removed in vacuo. The resulting solid is taken up in MeOH (200 mL) and filtered the white solid is washed with MeOH (2×200 mL). The solid is suspended in water and sonicated for 30 minutes, filtered, washed with water (100 mL), MeOH (2×100 mL) and dried in vac oven to give the title compound. 1H NMR (DMSO, 400 MHz); 8.30 (m, 1H), 8.50 (m, 1H) 7.45-7.20 (m, 10H), 4.80-4.55 (m, 2H), 4.20 (m, 2H), 4.00 (m, 2H), 3.4 (s, 2H).

reactant | 6-(2,2-Diphenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1=NC(=C2N=CNC2=N1)NCC(C1=CC=CC=C1)C1=CC=CC=C1
reactant | N,O-bis(trimethylsilyl)acetamide | 50 mL | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
solvent | CHCl3 | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-(2,2-Diphenyl-ethylamino)-9H-purine-2-carboxylic Acid Methyl Ester | COC(=O)C1=NC(=C2N=CNC2=N1)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19N5O2
